US08304407B2
Step B: Preparation of (1E,4E)-2-(tert-butoxycarbonyl)-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxylic acid (14):
To a solution of (1E,4E)-ethyl 2-(tert-butoxycarbonyl)-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxylate in THF/H2O (4:1, 10 mL) was added LiOH.H2O (42 mg, 1.00 mmol). After 4 hours the mixture was made acidic (pH 4) with 10% citric acid and extracted with CH2Cl2 (2×100 mL). The combined organics were dried and concentrated. The material was used without further purification.

reactant | (1E,4E)-ethyl 2-(tert-butoxycarbonyl)-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxylate | C(C)(C)(C)OC(=O)/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C(C(F)(F)F)(F)F)\C(=O)OCC | C20H20F5NO4
reactant | LiOH.H2O | 1.00 mmol, 42 mg | O[Li].O
solvent | THF H2O | 10 mL | C1CCOC1.O
product | (1E,4E)-2-(tert-butoxycarbonyl)-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxylic acid | C(C)(C)(C)OC(=O)/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C(C(F)(F)F)(F)F)\C(=O)O | C18H16F5NO4
